US07666879B2
7-Iodo-imidazo[1,2-a]pyridine
Combine 4-iodo-pyridin-2-ylamine (4.00 g, 18.18 mmol) and chloroacetaldehyde (2.77 mL, 21.82 mmol) in ethanol (40 mL). Attach a reflux condenser, and heat the mixture to 83° C., stir overnight (15 hours), and cool to room temperature. Filter the resulting solution to yield the product as a tan solid (1.40 g, 32%). MS(ES), m/z 245 (M+1)

reactant | 4-iodo-pyridin-2-ylamine | 18.18 mmol, 4.00 g | IC1=CC(=NC=C1)N | C5H5IN2
reactant | chloroacetaldehyde | 21.82 mmol, 2.77 mL | ClCC=O | C2H3ClO
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 7-Iodo-imidazo[1,2-a]pyridine | 1.40 g, 32% | IC1=CC=2N(C=C1)C=CN2 | C7H5IN2
